US05338856
Preparation of 5-Methyl-2-trifluoromethyloxazole
Aminoacetone hydrochloride of about 80 percent purity (13.3 g, 121 mmol) was slurried in 100 mL of benzene and 22 mL (146 mmol) of trifluoroacetic anhydride was added with stirring. The mixture was heated at reflux for 2-3 hr, during which time it separated into two liquid phases, and was then allowed to cool. Sufficient diatomaceous earth was added to sequester the smaller lower phase as a white solid. This was collected by filtration and extracted with 2×50 mL of dichloromethane. The upper phase and the dichloromethane extracts were combined and distilled at 200 torr (27 kPa) through a short Vigreaux column until the head temperature reached 70° C. The residue was then kugelrohr distilled taking the fraction that distilled at 110° C. and 20 torr (2.7 kPa). This material, which solidified, was dissolved in 50 mL of phosphorus oxychloride and the mixture was heated at reflux for 2 hr during which time it turned very dark. The mixture was then distilled through a 15 cm Vigreaux column until the head temperature reached 110° C. The distillate, a water-white oil, was slowly added to 150 mL of water with vigorous stirring, keeping the temperature below 40° C. After 30 min the mixture was extracted with 3×50 mL of ether. The ethereal extract was dried over magnesium sulfate and distilled using a 30 cm glass helices packed column to remove the ether and other volatiles. Solid sodium bicarbonate was cautiously added to the residue until foaming ceased. The resulting slurry was filtered and the solids extracted with 3 mL of ether. The combined organics were distilled through a short Vigreaux column to obtain 1.75 g (9 percent of theory) of the title compound as a colorless oil containing about 10 percent ether as an impurity boiling at 100°-104° C. The proton NMR spectrum had absorptions at δ 2.36 (s, 3H) and 6.85 (s, 1H).

reactant | Aminoacetone hydrochloride | Cl.NCC(C)=O
reactant | trifluoroacetic anhydride | 146 mmol, 22 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
product | 5-Methyl-2-trifluoromethyloxazole | CC1=CN=C(O1)C(F)(F)F | C5H4F3NO
